US06608203B2
1-[1-(4-Benzyloxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone
Trifluoroacetic anhydride (0.088 g, 0.42 mmol) was added to a solution of 1-(4-benzyloxyphenyl)-1,2,3,4-tetrahydroisoquinoline (0.132 g, 0.42 mmol) and Et3N (0.117 ml, 0.84 mmol) in anhydrous CH2Cl2 (5 ml) at 0° C. under N2. The resulting yellow solution was stirred at rt for 5 hr, washed first with 1M HCl (5 ml) then 1M NaOH (5 ml), dried over MgSO4, and concentrated in vacuo to give 0.186 g of yellow oil. Purification by flash chromatography, eluting with hexane:EtOAc (9:1) gave 0.147 g (85% yield) of yellow oil.

reactant | Trifluoroacetic anhydride | 0.42 mmol, 0.088 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(4-benzyloxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 0.42 mmol, 0.132 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1NCCC2=CC=CC=C12 | C22H21NO
reactant | Et3N | 0.84 mmol, 0.117 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-Benzyloxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone | 0.186 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(C(F)(F)F)=O | C24H20F3NO2
